US08357703B2
f) N-Isopropyl-6-(5-methyl-3-pyrrolidin-1-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 1e, 6-(5-methyl-3-pyrrolidin-1-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.28 mmol), instead of 6-[5-methyl-3-(3,3,3-trifluoro-propyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted, to the title compound (30 mg, 55%) which was obtained as a white solid after purification by chromatography (silica, 30 to 60% ethyl acetate in heptane). MS: m/e=345.2 [M+H]+.

reactant | 6-(5-methyl-3-pyrrolidin-1-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.28 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)N1CCCC1)=O | C16H19N3O4
reactant | 6-[5-methyl-3-(3,3,3-trifluoro-propyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCC(F)(F)F)=O | C15H15F3N2O4
product | N-Isopropyl-6-(5-methyl-3-pyrrolidin-1-yl-isoxazol-4-ylmethoxy)-nicotinamide | 30 mg, 55% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)N1CCCC1)=O | C18H24N4O3
